US07420001B2
To 0.58 g (1.7 mmole) of ethyl 5-bromo-4-isopropoxy-3-methyl-1-benzofuran-2-carboxylate in 15 mL of THF and 15 mL MeOH was added 8.5 mL of 1NaOH and the reaction was stirred at room temperature for 1 hour. The solvent was concentrated in vacuo, the residue was neutralized with 1N HCl and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over sodium sulfate, filtered, and concentrated to provide 0.46 g of 5-bromo-4-isopropoxy-3-methyl-1-benzofuran-2-carboxylic acid. Yield 86.8%; m.p. 182-184° C.; MS 311.0 (M−H)−.

reactant | ethyl 5-bromo-4-isopropoxy-3-methyl-1-benzofuran-2-carboxylate | 1.7 mmole, 0.58 g | BrC=1C=CC2=C(C(=C(O2)C(=O)OCC)C)C1OC(C)C | C15H17BrO4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | MeOH | 15 mL | CO | CH4O
product | 5-bromo-4-isopropoxy-3-methyl-1-benzofuran-2-carboxylic acid | 0.46 g, Yield 86.8% | BrC=1C=CC2=C(C(=C(O2)C(=O)O)C)C1OC(C)C | C13H13BrO4
